US06121308
h. 2-[(4-cyanophenyl)-oxymethyl]-4-methyl-7-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino)-quinoline
Prepared analogously to Example 1d from 2-[(4-cyanophenyl)-oxymethyl]-4-methyl-7-(quinoline-8-sulphonylamino)-quinoline and bromoethyl acetate.

reactant | 2-[(4-cyanophenyl)-oxymethyl]-4-methyl-7-(quinoline-8-sulphonylamino)-quinoline | C(#N)C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C(=C1)C)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C27H20N4O3S
reactant | bromoethyl acetate | C(C)(=O)OCCBr | C4H7BrO2
product | 2-[(4-cyanophenyl)-oxymethyl]-4-methyl-7-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino)-quinoline | C(#N)C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C(=C1)C)N(CC(=O)OCC)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C31H26N4O5S
